*Sample netlist for BSIM-CMG 

*Ring Oscillator

.include Modelcards/modelcard.nmos
.include Modelcards/modelcard.pmos

* --- Voltage Sources ---
vdd   supply  0 dc=1.0
Vss   ss      0 0

* --- Inverter Subcircuit ---
.subckt mg_inv vin vout vdd ss
NP1 vout vin vdd vdd BSIMCMG_osdi_P  TFIN=15n L=40n NFIN=10 NRS=1 NRD=1
NN1 vout vin ss ss BSIMCMG_osdi_N  TFIN=15n L=40n NFIN=10 NRS=1 NRD=1 D=40n
.ends

* --- Inverter ---
Xinv1  vi 1 supply ss mg_inv
Xinv2  1 2 supply ss mg_inv
Xinv3  2 3 supply ss mg_inv
Xinv4  3 4 supply ss mg_inv
Xinv5  4 vi supply ss mg_inv

Xinv6  vi vo supply 0 mg_inv

* --- Transient Analysis ---
.tran 0.1p 1n

.control
* pre_osdi ../osdi_libs/bsimcmg.osdi
set xbrushwidth=3
run
plot i(vss)
plot v(vo)
.endc

.end
